US08466282B2
Tert-butyl (3R,5S)-3-(morpholin-4-ylcarbonyl)-5-{[(2-nitrophenyl)sulfonyl]amino}piperidine-1-carboxylate
tert-Butyl (3S,5R)-3-amino-5-(morpholin-4-ylcarbonyl)piperidine-1-carboxylate (3.13 g) and triethylamine (2.1 ml) were dissolved in THF (30 ml), 2-nitrobenzenesulfonyl chloride (2.44 g) was added at room temperature, and the mixture was stirred at room temperature for 15 hr. Water was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure to give the object product (4.68 g).

reactant | tert-Butyl (3S,5R)-3-amino-5-(morpholin-4-ylcarbonyl)piperidine-1-carboxylate | 3.13 g | N[C@@H]1CN(C[C@@H](C1)C(=O)N1CCOCC1)C(=O)OC(C)(C)C | C15H27N3O4
reactant | triethylamine | 2.1 ml | C(C)N(CC)CC | C6H15N
reactant | 2-nitrobenzenesulfonyl chloride | 2.44 g | [N+](=O)([O-])C1=C(C=CC=C1)S(=O)(=O)Cl | C6H4ClNO4S
reactant | Water | O | H2O
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | Tert-butyl (3R,5S)-3-(morpholin-4-ylcarbonyl)-5-{[(2-nitrophenyl)sulfonyl]amino}piperidine-1-carboxylate | 4.68 g | N1(CCOCC1)C(=O)[C@H]1CN(C[C@H](C1)NS(=O)(=O)C1=C(C=CC=C1)[N+](=O)[O-])C(=O)OC(C)(C)C | C21H30N4O8S
